US04672066
1-(2,4-dihydroxy-3-propylphenyl)ethanone was allowed to react with methyl 2-bromomethylbenzoate according to the procedure of Example 69 and the product was purified by recrystallization from hexane to give 2-[4-acetyl-3-hydroxy-2-propylphenoxy)methyl]benzoic acid methyl ester, the title compound, m.p. 90°-93°, in 78% yield. Analysis Calculated for C20H22O5 : C, 70.16, H, 6.48. Found: C, 69.97; H, 6.36.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | methyl 2-bromomethylbenzoate | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
product | benzoic acid methyl ester | COC(C1=CC=CC=C1)=O | C8H8O2
